US07384952B2
To 5-(ethoxycarbonyl)thiophen-2-carboxylic acid (250 mg) is added successively methylene chloride (3.0 mL), N,N-dimethylethylenediamine (100 mg), 1-hydroxybenzotriazole (205 mg), triethylamine (610 mg), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (290 mg). The mixture is stirred at room temperature overnight. The reaction mixture is diluted with chloroform and thereto is added a saturated sodium hydrogencarbonate solution. After stirring, the organic layer is separated and concentrated in vacuo. The residue is purified by flash column chromatography on NH-silica gel (Solvent; ethyl acetate) to give ethyl 5-[[[2-(dimethylamino)ethyl]amino]carbonyl]thiophen-2-carboxylate (160 mg, yield; 53%) as brown crystals. MS (APCI) m/z: 271 [M+H]+

reactant | 5-(ethoxycarbonyl)thiophen-2-carboxylic acid | 250 mg | C(C)OC(=O)C1=CC=C(S1)C(=O)O | C8H8O4S
reactant | N,N-dimethylethylenediamine | 100 mg | CN(CCN)C | C4H12N2
reactant | 1-hydroxybenzotriazole | 205 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 290 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 610 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3.0 mL | C(Cl)Cl | CH2Cl2
product | ethyl 5-[[[2-(dimethylamino)ethyl]amino]carbonyl]thiophen-2-carboxylate | 160 mg, yield; 53% | CN(CCNC(=O)C1=CC=C(S1)C(=O)OCC)C | C12H18N2O3S
